US04031088
From 3-acetamido-5-amino-2,4,6-triiodobenzoic acid. A mixture of 11.4 g. of 3-acetamido-5- amino-2,4,6-triidobenzoic acid, 23 g. of glutaric anhydride and 1 ml. of concentrated sulfuric acid was heated on a steam bath for two and one-half hours. The reaction mixture was stirred with water and the product (14.4 g.) collected by filtration. The product was recrystallized twice from acetone to give 3,5-bis(glutarimido)-2,4,6-triiodobenzoic acid. The same compound is obtained if the 3-acetamido-5-amino-2,4,6-triiodobenzoic acid is replaced by 3,5-diacetamido-2,4,6-triiodobenzoic acid.

reactant | 3-acetamido-5-amino-2,4,6-triiodobenzoic acid | C(C)(=O)NC=1C(=C(C(=O)O)C(=C(C1I)N)I)I | C9H7I3N2O3
reactant | glutaric anhydride | C1(CCCC(=O)O1)=O | C5H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3,5-bis(glutarimido)-2,4,6-triiodobenzoic acid | C1(CCCC(N1C=1C(=C(C(=O)O)C(=C(C1I)N1C(CCCC1=O)=O)I)I)=O)=O | C17H13I3N2O6
